### PR TITLE
finmap

### PR DESCRIPTION
**Pull request by gares**

### CODE REVIEW

File: mathcomp/ssreflect/ssrbool.v [hunk 1]
```diff
@@ -160,3 +161,247 @@ Proof. by case: b1 b2 => [] []. Qed.
...
+Proof. by move=> sdd' phP Pd' A /(_ _ _)/sdd'-/Pd'. Qed.
+
+End MoreLocalProperties.
+
+Notation "{ 'for' x & y , P }" :=
+  (prop_for2 x y (inPhantom P)) : type_scope.
+Notation "{ 'for' x & y & z , P }" :=
+  (prop_for3 x y z (inPhantom P)) : type_scope.
+Notation "{ 'in' <= S , P }" :=
+  (prop_within (mem S) (inPhantom P)) : type_scope.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/ssrbool.v:228]: The problem in ssrint comes from this notation which conflicts with ordering as in `{in <= 0 , P}`

**Comment by CohenCyril** [comment]
Note to @finmap-porting I did a force push (I know it is forbidden, but for now I was the one with the lock), it should be anodine, but do not forget to do a `git pull --rebase`.

**Comment by proux01** [comment]
I updated the graph in the top post.

Important point to take care of during porting: when we have something like
```Coq
Lemma foo (T : finType) (P : {finpred T}) ...
````
the predicate `P` *must* be a `{finpred T}` and not a `pred T` or `{pred T}`, otherwise any of its use as a finpred (like for instance `#|P|`) will insert an additional coercion to finpred that could be the wrong one, leading to nasty failures later on with seemingly identical terms that are not convertible.

**Comment by proux01** [comment]
bigop.v done (was quite painful because many arguments of type {finpred _} were no longer inferred from the goal, c.f. `FIXME: extra arg` in the diff)

Next files are: finset.v (core of the porting work), prime.v and ssrAC.v (both probably pretty easy)
